US04551460
16.8 g of sodium hydroxide was dissolved in 350 ml of ethanol and 17.2 g of 3-chloromethylpyridine hydrochloride and 23.7 g of 2-mercaptoethanamine hydrochloride were added with ice bath cooling. The reaction mixture was allowed to warm to room temperature over 2 hours, was concentrated, diluted with water, and extracted with 3×100 ml of dichloromethane. The combined organic layers were washed with saturated brine, dried over potassium carbonate and concentrated. The residue was distilled to give 12.30 g (70%) of 2-[[(3-pyridyl)methyl]thio]ethanamine, bp 115°-125° C./0.1 mm.

reactant | sodium hydroxide | 16.8 g | [OH-].[Na+]
reactant | 3-chloromethylpyridine hydrochloride | 17.2 g | Cl.ClCC=1C=NC=CC1
reactant | 2-mercaptoethanamine hydrochloride | 23.7 g | Cl.SCCN
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2-[[(3-pyridyl)methyl]thio]ethanamine | 12.30 g, 70% | N1=CC(=CC=C1)CSCCN | C8H12N2S
